* source MICROPHONE
V_V4         N00734 0  
+SIN 0 20m 1k 0 0 0
C_C2         N00734 N00752  0.47u  
C_C3         0 N01478  4.7u  
C_C4         0 N01189  47u  
R_R1         0 N00752  270k  
R_R12         N02167 0  8  
R_R2         N00752 N01189  270k  
R_R13         0 N01997  330  
Q_Q3         N01371 N00752 N01478 Q2N2222
Q_Q4         N01189 N01371 N01997 Q2N2222
C_C5         N01997 N02167  33u  
R_R4         0 N01478  330  
V_V2         N01189 0 9Vdc
R_R5         N01371 N01189  10k  
